US07498337B2
tert-butyl {[5-(6′-chloro-2,3′-bipyridin-5-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
tert-Butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (431 mg), (6-chloropyridin-3-yl)boronic acid (237 mg), sodium hydrogencarbonate (252 mg) and tetrakis(triphenylphosphine)palladium (87 mg) were added to a degassed mixture of 1,2-dimethoxyethane (8 mL) and water (2 mL), and the mixture was stirred under a nitrogen atmosphere at 90° C. for 3 hr. The reaction mixture was allowed to cool, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1→3:7), and fractions showing Rf value of 0.6 (eluent: hexane-ethyl acetate=1:1) were collected to give the title compound of Reference Example 172 as a colorless oil (yield 100 mg, 22%). Then, fractions showing Rf value of 0.4 (eluent: hexane-ethyl acetate=1:1) were collected to give the title compound of Reference Example 173 as a pale-yellow powder (yield 100 mg, 19%).

reactant | tert-Butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 431 mg | BrC1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C16H20BrN3O4S
reactant | (6-chloropyridin-3-yl)boronic acid | 237 mg | ClC1=CC=C(C=N1)B(O)O | C5H5BClNO2
reactant | sodium hydrogencarbonate | 252 mg | C(O)([O-])=O.[Na+]
reactant | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | tert-butyl {[5-(6′-chloro-2,3′-bipyridin-5-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | ClC1=CC=C(C=N1)C1=NC=C(C=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C26H26ClN5O4S
